US05587389
15. 2,2-Difluoro-6-{[[4-(2-furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-5H-[1,3]dioxolo-[4,5-f]benzimidazole dihydrochloride
Following the procedure described in Example 12, the reaction of 2-chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride with 2,2-difluoro-6-mercapto-5H-[1,3]dioxolo-[4,5-f]benzimidazole in isopropanol gives the title compound as a colorless solid; m.p. 180-183° C. (decomp.).

reactant | 2-chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)SCC=1OC=CC1
reactant | 2,2-difluoro-6-mercapto-5H-[1,3]dioxolo-[4,5-f]benzimidazole | FC1(OC=2C(=CC3=C(N=C(N3)S)C2)O1)F | C8H4F2N2O2S
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2,2-Difluoro-6-{[[4-(2-furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-5H-[1,3]dioxolo-[4,5-f]benzimidazole dihydrochloride | Cl.Cl.FC1(OC=2C(=CC3=C(N=C(N3)SCC3=NC=CC(=C3C)SCC=3OC=CC3)C2)O1)F | InChI=1S/C20H15F2N3O3S2.2ClH/c1-11-15(23-5-4-18(11)29-9-12-3-2-6-26-12)10-30-19-24-13-7-16-17(8-14(13)25-19)28-20(21,22)27-16;;/h2-8H,9-10H2,1H3,(H,24,25);2*1H
